US07384963B2
N-(3-Chlorobenzyl)-N-ethyl-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from N-(3-chlorobenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide and iodoethane using method L. NMR; δH [2H6]—DMSO 7.89,(1H, d), 7.76,(1H, b), 7.58-7.34,(8H, m), 7.24,(1H, b), 4.71-4.55,(2H, m), 3.25,(2H, b), 2.56,(3H, s), 2.32,(3H, s), 1.09,(3H, b). LCMS; retention time 3.67 min, MH+ 446/448.

reactant | N-(3-chlorobenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | ClC=1C=C(CNC(=O)C2=CC=C(C=C2)C2=C(C=CC(=C2)C=2OC(=NN2)C)C)C=CC1 | C24H20ClN3O2
reactant | iodoethane | ICC | C2H5I
product | N-(3-Chlorobenzyl)-N-ethyl-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | ClC=1C=C(CN(C(=O)C2=CC=C(C=C2)C2=C(C=CC(=C2)C=2OC(=NN2)C)C)CC)C=CC1 | C26H24ClN3O2
